US07112589B2
To a solution of 0.089 g (0.38 mmol) of (5-aminomethyl-2-chloro-pyrimidin-4-yl](2,2-dimethyl-propyl)-amine and 0.27 ml (1.6 mmol) DIEA in 2.5 ml of DMF 0.063 g (0.38 mmol) of (4-methoxy-phenyl)-acetic acid is added and the reaction mixture is stirred at r.t for 16 h. The reaction mixture is then diluted with ethyl acetate and twice washed with H2O, the organic layer is separated and dried over Na2SO4 and then concentrated under reduced pressure. Flash chromatography (ethyl acetate/hexanes 1:1) of the residue provided N-[2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)acetamide as white crystalls.

reactant | (5-aminomethyl-2-chloro-pyrimidin-4-yl](2,2-dimethyl-propyl)-amine | 0.38 mmol, 0.089 g | NCC=1C(=NC(=NC1)Cl)NCC(C)(C)C | C10H17ClN4
reactant | DIEA | 1.6 mmol, 0.27 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.38 mmol, 2.5 ml, 0.063 g | CN(C)C=O | C3H7NO
reactant | (4-methoxy-phenyl)-acetic acid | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidin-5-ylmethyl]-2-(4-methoxy-phenyl)acetamide | ClC1=NC=C(C(=N1)NCC(C)(C)C)CNC(CC1=CC=C(C=C1)OC)=O | C19H25ClN4O2
